US06387919B1
4-[N′-(7-Oxo-6,7-dihydro-3H-pyrrolo[3,2-e]indazol-8-ylidene)-hydrazino]-benzenesulfonamide (Z isomer)
The title compound was prepared from 3,6-dihydro-pyrrolo[3,2-e]indazole-7,8-dione (Cuny, et al., Chemie Berichte 1981, 114, 1624-35) and 4-sulfonamidophenylhydrazine hydrochloride according to Procedure G in 8% yield: 1H NMR (DMSO-d6): δ 7.02 (d, J=8.7 Hz, 1H), 7.28 Z (s, 2H), 7.51 (d, J=8.6 Hz, 2H), 7.68 (d, J=8.8 Hz, 1H), 7.82 (d, J=8.7 Hz, 2H), 8.34 (s, 1H), 10.98 (s, 1H), 12.90 (s, 1H), 13.20 (s, 1H); APCI−MS m/z 356 (M)−. Anal. Calcd for C15H12N6O3S.1.46 H2O.0.2 EtOAc: C, 47.41, H. 4.16; N, 20.99; S, 8.01. Found C, 47.40, H, 3.70; N, 21.00; S, 7.85.

reactant | 3,6-dihydro-pyrrolo[3,2-e]indazole-7,8-dione | C1=NNC=2C=CC3=C(C12)C(C(N3)=O)=O | C9H5N3O2
reactant | 4-sulfonamidophenylhydrazine hydrochloride | C1=CC(=CC=C1NN)S(=O)(=O)N.Cl
reactant | H2O | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[N′-(7-Oxo-6,7-dihydro-3H-pyrrolo[3,2-e]indazol-8-ylidene)-hydrazino]-benzenesulfonamide | 8% yield | O=C1C(C=2C=3C=NNC3C=CC2N1)=NNC1=CC=C(C=C1)S(=O)(=O)N | C15H12N6O3S
